US08003800B2
2,6-Diethyl-4-[5-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenol is prepared from 4-isobutyl-3,5-dimethyl-thiophene-2-carboxylic acid and 4,N-dihydroxy-3,5-diethyl-benzamidine in analogy to Example 21; LC-MS: tR=1.24 min, [M+1]=385.28.

reactant | 4-isobutyl-3,5-dimethyl-thiophene-2-carboxylic acid | C(C(C)C)C=1C(=C(SC1C)C(=O)O)C | C11H16O2S
reactant | 4,N-dihydroxy-3,5-diethyl-benzamidine | OC1=C(C=C(C(=N)NO)C=C1CC)CC | C11H16N2O2
product | 2,6-Diethyl-4-[5-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenol | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C=1SC(=C(C1C)CC(C)C)C)CC)O | C22H28N2O2S
